US07759373B2
A mixture of 1,2,3,4-tetrahydroquinolin-6-carboxylic acid (2 g), 32% aqueous formalin solution (2 ml) and 10% palladium-carbon (400 mg) in N,N-dimethylformamide (10 ml) was stirred under hydrogen atmosphere at room temperature for one hour. After removing the palladium-carbon by filtration, the solvent was removed under reduced pressure and the resulting residue was triturated with diethyl ether to obtain 1-methyl-1,2,3,4-tetrahydroquinolin-6-carboxylic acid (1.98 g) as yellowish powder.

reactant | 1,2,3,4-tetrahydroquinolin-6-carboxylic acid | 2 g | N1CCCC2=CC(=CC=C12)C(=O)O | C10H11NO2
reactant | formalin | 2 ml | C=O | CH2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 400 mg | [C].[Pd]
product | 1-methyl-1,2,3,4-tetrahydroquinolin-6-carboxylic acid | 1.98 g | CN1CCCC2=CC(=CC=C12)C(=O)O | C11H13NO2
